US09447139B2
3α-Azidocholest-5-ene (4.62 mmol, 1.9 g) was dissolved in 154 mL of anhydrous diethyl ether. Lithium aluminum hydride (46.2 mmol, 1.75 g) was then added in one portion. After 30 hours, the reaction mixture was cooled to 0° C. 1.75 mL of deionized water was then added dropwise. After stirring for five minutes, 1.75 mL of 15% aqueous NaOH was added dropwise. After stirring for another five minutes, 5.25 mL of deionized water was added dropwise. The reaction was then stirred until all the salts turned white. Immediately afterwards, the reaction was filtered, dried (Na2SO4), and concentrated to afford 3α-Aminocholest-5-ene (1.57 g, 93%) as a white solid. mp 104-106° C.; IR (thin film) 3367, 3343, 2931, 1557 cm−1; 1H NMR (300 MHz, CDCl3) d 5.37-5.34 (m, 1H), 3.15 (t, 1H, J=3.2 Hz), 2.61-2.54 (m, 1H), 2.04-1.74 (m, 6H), 1.63-1.03 (m, 21H), 1.00 (s, 3H), 0.91 (d, 3H, J=6.5 Hz), 0.86 (d, 6H, J=6.6 Hz), 0.67 (s, 3H).

reactant | 3α-Azidocholest-5-ene | 4.62 mmol, 1.9 g | N(=[N+]=[N-])[C@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H45N3
reactant | Lithium aluminum hydride | 46.2 mmol, 1.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.75 mL | O | H2O
reactant | NaOH | 1.75 mL | [OH-].[Na+]
reactant | water | 5.25 mL | O | H2O
solvent | diethyl ether | 154 mL | C(C)OCC | C4H10O
product | 3α-Aminocholest-5-ene | 1.57 g, 93% | N[C@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H47N
